US06930131B2
Step 1. Preparation of 3-{2-[2-(4-tert-Butyl-phenyl)-thiazol-4-ylmethoxy]-ethyl}-phenyl amine
To a solution of 0.027 g (1 mmol) of 95% sodium hydride and 0.5 drop of 15-crown-5 in 20 mL of THF was added dropwise a solution of 0.139 g (1 mmol) of 3-(2-hydroxy ethyl)phenyl amine at 0° C. After stirring for 0.5 hr 0.28 g (1.1 mmol) of 4-chloromethyl-2-(4-tert-butyl phenyl)thiazole was added in one portion. The mixture was stirred at room temperature for 5 hr. At the end of this time, the solution was concentrated and the residue washed with 10 ml of saturated ammonium chloride and extracted 2 times with 30 mL of ethyl acetate. The organic layers were combined, dried (MgSO4) and concentrated to recover an oil, which was purified by column chromatography on SiO2 with 30% ethyl acetate:hexane elution to provide 0.125 g of product as an oil, used in the next step without further purification. NMR (400 MHz, DMSO-d6) δ 7.83 (d, J=8 Hz, 2H, ArH), 7.50 (d, J=8 Hz, 2H, ArH), 7.45 (s, 1H, N═CH) 7.08 (t, J=8 Hz, 1H, H5), 6.63 (d, J=8 Hz, 1H, H4), 6.54 (s, 1H, H2), 6.51 (d, J=8 Hz, 1H, H6) 4.59 (s, 2H, OCH2), 3.71 (t, J=7 Hz, 2H, OCH2), 2.87 (t, J=7 Hz, 2H, ArCH2), 1.30 (s, 9H, t-bu).

reactant | sodium hydride | 1 mmol, 0.027 g | [H-].[Na+]
reactant | 3-(2-hydroxy ethyl)phenyl amine | 1 mmol, 0.139 g | OCCC=1C=C(C=CC1)N | C8H11NO
reactant | 4-chloromethyl-2-(4-tert-butyl phenyl)thiazole | 1.1 mmol, 0.28 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(C)(C)C | C14H16ClNS
catalyst | 15-crown-5 | 0.5 drop | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-{2-[2-(4-tert-Butyl-phenyl)-thiazol-4-ylmethoxy]-ethyl}-phenyl amine | 0.125 g | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(N1)COCCC=1C=C(C=CC1)N | C22H26N2OS
